US06967220B2
d) N-[3,5-Dichloro-4-(4-methoxyphenoxy)benzyl]-N-hydroxy-formamide
A solution of 3,5-dichloro-4-(4-methoxyphenoxy)benzaldehyde (170 mg, 0.572 mmol) and hydroxylamine hydrochloride (48 mg, 0.687 mmol) in 1 ml of pyridine was stirred for 1 h then all volatiles were removed in vacuo. The resulting imine intermediate was treated with sodium cyanoborohydride (122 mg, 1.944 mmol) in 2 ml of glacial acetic acid for 5 h. The reaction mixture was then quenched with water and neutralized with sodium bicarbonate powder, extracted with ethyl acetate and dried (sodium sulfate). The resulting 3,5-dichloro-N-hydroxy-4-(4-methoxyphenoxy)benzyl amine was converted to the title compound using the method described in example 1c (50 mg, 26%) as an off-white solid. 1H NMR (400 MHz, CDCl3) δ 8.06 (s, 1H), 7.34 (s, 2H), 6.82 (d, j=8.8 Hz, 2H), 6.76 (d, j=8.8 Hz, 2H), 4.64 (s, 2H), 3.76 (s, 3H). M+1=342.

reactant | 3,5-dichloro-4-(4-methoxyphenoxy)benzaldehyde | 0.572 mmol, 170 mg | ClC=1C=C(C=O)C=C(C1OC1=CC=C(C=C1)OC)Cl | C14H10Cl2O3
reactant | hydroxylamine hydrochloride | 0.687 mmol, 48 mg | Cl.NO
reactant | sodium cyanoborohydride | 1.944 mmol, 122 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-[3,5-Dichloro-4-(4-methoxyphenoxy)benzyl]-N-hydroxy-formamide | ClC=1C=C(CN(C=O)O)C=C(C1OC1=CC=C(C=C1)OC)Cl | C15H13Cl2NO4
